US08802670B2
Tert-butyl 2-(methoxycarbonyl)furan-3-ylcarbamate (1.14 g, 1.0 eq) was dissolved in dichloromethane (8 ml) and treated with trifluoroacetic acid (5 ml). Reaction mixture was stirred at room temperature for 3 h, and was then concentrated. Residue was dissolved in dichloromethane and washed with saturated aq. NaHCO3. The organic layer was dried (Na2SO4) and concentrated Mixture was extracted with ethyl acetate. The combined organic extracts were dried with Na2SO4 and concentrated. The crude reaction mixture was purified by flash chromatography to yield methyl 3-aminofuran-2-carboxylate (574 mg, 86%): MS (Q1) 142 (M)+.

reactant | Tert-butyl 2-(methoxycarbonyl)furan-3-ylcarbamate | 1.14 g, 1.0 eq | COC(=O)C=1OC=CC1NC(OC(C)(C)C)=O | C11H15NO5
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | methyl 3-aminofuran-2-carboxylate | 574 mg, 86% | NC1=C(OC=C1)C(=O)OC | C6H7NO3
